US07786120B2
1-(4-((E)-2-Iodovinyl)phenyl)piperidine
1-(4-Ethynylphenyl)piperidine (3.49 g, 18.8 mmol) in dry THF (100 mL) was added to a suspension of bis(cyclopentdienyl)zirconium(IV)chloride hydride (5.09 g, 19.76 mmol) in THF (50 mL) at r.t. under nitrogen in the dark. After 1 h, iodine (3.65 g, 23.7 mmol) was added. After a further 2 h, saturated aqueous sodium sulfite (50 mL) was carefully added and the reaction mixture was partitioned between water (30 mL) and EtOAc (100 mL). The organic layer was separated and dried (MgSO4), filtered and concentrated. Purification by column chromatography (5% EtOAc in PE) gave the title compound (3.08 g, 52%) as a colorless-solid. 1H NMR (CDCl3) 1.61 (2H, m), 1.70 (4H, m), 3.20 (4H, m), 6.54 (1H, d), 6.83 (2H, d), 7.19 (2H, d), 7.31 (1H, d).

reactant | 1-(4-Ethynylphenyl)piperidine | 18.8 mmol, 3.49 g | C(#C)C1=CC=C(C=C1)N1CCCCC1 | C13H15N
reactant | iodine | 23.7 mmol, 3.65 g | II | I2
reactant | sodium sulfite | 50 mL | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | bis(cyclopentdienyl)zirconium(IV)chloride hydride | 19.76 mmol, 5.09 g | [H-].[Cl-].C1(=CC=CC1)[Zr+2]C1=CC=CC1
product | 1-(4-((E)-2-Iodovinyl)phenyl)piperidine | 3.08 g, 52% | I/C=C/C1=CC=C(C=C1)N1CCCCC1 | C13H16IN
